datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([H:31])([H:32])[H:33])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27]([C:28]([H:31])([H:32])[H:33])([H:29])[H:30])[H:15])([H:13])[H:14],25.5224
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:29])[H:30])[H:28])=[C:17]([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:27])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:25])[H:26])[H:27])([C:15](=[C:16]([H:29])[H:30])[H:28])[C:17]([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:5],38.6602
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21],76.9856
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18],43.8065
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6](=[C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:18])[H:10],85.8975
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][C:6]([C:7]([H:20])([H:21])[H:22])=[O:8])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:18])[H:19])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:5]=[C:6]([C:7]([H:20])([H:21])[H:22])[O:8][H:16],194.1376
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5](=[C:6]([C:7]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13])[H:8]>>[C:0](#[C:1][C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[C:5]1([C:6]([C:7]([H:16])([H:17])[H:18])[H:15])[H:14])[H:8],64.3499
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([C:10]([H:18])([H:19])[H:20])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[S:3])[H:14])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10]([H:18])([H:19])[H:20])([H:11])([H:12])[H:13],57.3208
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([H:19])([H:20])[H:21]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:18]([H:19])([H:20])[H:21],20.0832
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26](=[C:27]([C:28]([C:29](=[C:30]([H:36])[H:37])[H:35])[H:34])[H:33])([H:31])[H:32]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:28]([C:27](=[C:26]([H:31])[H:32])[H:33])([C:29](=[C:30]([H:36])[H:37])[H:35])[H:34],75.3957
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:21])[H:11])([H:9])[H:10],3.138
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:18])([H:4])([H:5])[H:6].[C:13](=[C:14]=[C:15]([H:19])[H:20])([H:16])[H:17],25.104
[C:0]([N:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[O:7]>>[C:0]([N:1]=[C:2]([H:5])[H:6])[H:4].[H:3][O:7],-3.72376
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31],29.288
